US08877782B2
f) 5-Methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid
As described for example 58b, 5-methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid ethyl ester (500 mg, 2.1 mmol) was converted, instead of 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid methyl ester, to the title compound (321 mg, 73%) which was obtained as an off white solid. MS: m/e=204.1 [M−H]−.

reactant | 5-methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid ethyl ester | 2.1 mmol, 500 mg | C(C)OC(=O)C=1C(=NOC1C)C1=NC=NC=C1 | C11H11N3O3
reactant | 2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-isonicotinic acid methyl ester | COC(C1=CC(=NC=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
product | 5-Methyl-3-pyrimidin-4-yl-isoxazole-4-carboxylic acid | 321 mg, 73% | CC1=C(C(=NO1)C1=NC=NC=C1)C(=O)O | C9H7N3O3
